US08471005B2
{6-[7-(6-Methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-1H-benzoimidazol-2-yl}-methanol was prepared from trifluoro-methanesulfonic acid 7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester and (6-amino-1H-benzoimidazol-2-yl)-methanol; dihydrochloride in an analogous manner to Example 1061. Product isolated as a yellow solid (35 mg, 34%). m.p.=182-187° C.; LCMS (m/e) 388 (M+H); 1H-NMR (d6-DMSO, 400 MHz) δ 12.16 (bs, 1H), 9.36 (s, 1H), 8.97 (s, 1H), 8.92 (s, 1H), 8.60 (dd, 1H, J=1.8 and 8.7 Hz), 7.87 (bs, 1H), 7.50-7.35 (m, 2H), 7.18 (d, 1H, J=4.6 Hz), 6.99 (d, 1H, J=8.7 Hz), 6.94 (d, 1H, J=4.6 Hz), 5.63 (bs, 1H), 4.66 (s, 2H), 3.93 (s, 3H).

reactant | trifluoro-methanesulfonic acid 7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester | COC1=CC=C(C=N1)C1=CC=C2C=NC(=NN21)OS(=O)(=O)C(F)(F)F | C13H9F3N4O4S
reactant | (6-amino-1H-benzoimidazol-2-yl)-methanol | NC=1C=CC2=C(NC(=N2)CO)C1 | C8H9N3O
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
product | {6-[7-(6-Methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-1H-benzoimidazol-2-yl}-methanol | COC1=CC=C(C=N1)C1=CC=C2C=NC(=NN21)NC=2C=CC1=C(NC(=N1)CO)C2 | C20H17N7O2
